US07211573B2
To 2.90 g (8.49 mmol) 2-dibenzylamino-3-hydroxy-3-methyl-butyric acid ethyl ester in 300 ml methanol were added 3.21 g (51.0 mmol) potassium hydroxide dissolved in 100 ml water. The mixture was stirred at 60° C. overnight. 500 ml saturated, aqueous sodium dihydrogenphosphate solution were added followed by extraction with ethyl acetate. Chromatography on silicagel with ethylacetate/heptan (50:50 to 100:0) yielded 1.41 g (53%) 2-dibenzylamino-3-hydroxy-3-methyl-butyric acid, MS m/e (%): 312.3 (M−H, 100).

reactant | 2-dibenzylamino-3-hydroxy-3-methyl-butyric acid ethyl ester | 8.49 mmol, 2.90 g | C(C)OC(C(C(C)(C)O)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C21H27NO3
reactant | potassium hydroxide | 51.0 mmol, 3.21 g | [OH-].[K+]
reactant | sodium dihydrogenphosphate | P(=O)(O)(O)[O-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 2-dibenzylamino-3-hydroxy-3-methyl-butyric acid | 1.41 g, 53% | C(C1=CC=CC=C1)N(C(C(=O)O)C(C)(C)O)CC1=CC=CC=C1 | C19H23NO3
